US07557103B2
B. 3-(3-Chloro-thieno[2,3-b]pyridin-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
250 mg of 3-Chloro-thieno[2,3-b]pyridine (1.5 mmol) is dissolved in 2.0 ml of dry THF and cooled to −78° C. 0.59 ml of n-butyl lithium 2.5 M in hexane (1.5 mmol) is added slowly and stirred at room temperature for 3 min and cooled to −78° C. 3.0 ml of 0.5 M ZnCl2 in THF (1.5 mmol) is added and stirred at room temperature for 20 min. 343 mg of 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (1.0 mmol) and 41 mg of PdCl2(dppf) (0.05 mmol) are added and the reaction vial is capped with a Teflon cap and heated at 80° C. overnight. The reaction mixture is concentrated and applied onto a chromatography silica-gel column (Hexane:AcOEt=3:1); mass spectrum (m/e): 385; 1H-NMR (CDCl3): 8.66 (dd, 1H, J=4.5 Hz, 1.5 Hz), 8.10 (dd, 1H, J=8.1 Hz, 1.5 Hz), 7.44 (1H, J=8.1 Hz, 4.5 Hz), 6.74 (s, 1H), 3.33 (m, 1H), 2.55 (s, 3H), 2.53 (s, 3H), 1.85 (m, 4H), 0.89 (t, 6H, J=7.5 Hz) ppm.

reactant | 3-Chloro-thieno[2,3-b]pyridine | 1.5 mmol, 250 mg | ClC1=CSC2=NC=CC=C21 | C7H4ClNS
reactant | n-butyl lithium | 2.5 M, 0.59 ml | C(CCC)[Li]
reactant | hexane | 1.5 mmol | CCCCCC | C6H14
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.0 mmol, 343 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 0.5 M, 3.0 ml | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2(dppf) | 0.05 mmol, 41 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 1.5 mmol | C1CCOC1 | C4H8O
product | 3-(3-Chloro-thieno[2,3-b]pyridin-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | ClC1=C(SC2=NC=CC=C21)C2=C(N=C1N2N=C(C=C1C(CC)CC)C)C | C20H21ClN4S
